US09326987B2
N-[6-(6-Cyano-1H-indol-4-yl)-1H-indazol-4-yl]-1,4-dimethyl-1H-pyrazole-3-carboxamide
4-Bromo-1-[(4-nitrophenyl)sulfonyl]-1H-indole-6-carbonitrile (70 mg), 1,4-dimethyl-N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-1H-pyrazole-3-carboxamide (51 mg) and Pd(PPh3)4 (22 mg) were weighed to a microwave vial and DMF (1 ml) was added. The reaction was heated at 120° C. for 1 h, then cooled and passed through a silica (1 g) cartridge, which had been pre-washed with methanol and washed through with methanol:DCM. The solvent was dried under nitrogen blowdown. The residue was purified using MDAP (method K but using an isocratic 50:50 solvent mix over 10 min). Purified fraction was dissolved in methanol (1 ml) and 2M NaOH (aq) (2 ml) was added and the reaction left at RT over the weekend. The reaction was neutralised using 2M HCl (aq) and dried under nitrogen blowdown. The residue was taken into water and extracted into ethyl acetate. The ethyl acetate was passed through a hydrophobic frit, then through an SAX cartridge pre-conditioned with ethyl acetate. The solvent was evaporated by nitrogen blow down to give title compound, 12 mg.

reactant | 4-Bromo-1-[(4-nitrophenyl)sulfonyl]-1H-indole-6-carbonitrile | 70 mg | BrC1=C2C=CN(C2=CC(=C1)C#N)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H8BrN3O4S
reactant | 1,4-dimethyl-N-[1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-yl]-1H-pyrazole-3-carboxamide | 51 mg | CN1N=C(C(=C1)C)C(=O)NC1=C2C=NN(C2=CC(=C1)[Sn](C)(C)C)S(=O)(=O)C1=CC=CC=C1
catalyst | Pd(PPh3)4 | 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-[6-(6-Cyano-1H-indol-4-yl)-1H-indazol-4-yl]-1,4-dimethyl-1H-pyrazole-3-carboxamide | C(#N)C1=CC(=C2C=CNC2=C1)C1=CC(=C2C=NNC2=C1)NC(=O)C1=NN(C=C1C)C | C22H17N7O
